.SUBCKT LT3843A3 Err Vfb Ifb Osc COM Out Vcc Ref
* G:\SwCADIII\lib\sym\EXTRA\UC\UC384xA\LT3843A-5-test.asc
I1 Vcc COM TBL(0 0 1 .2m)
D1 COM Vcc 34V
A1 Vcc COM COM COM COM COM N004 COM SCHMITT Vt=8.2 Vh=0.3 Vhigh=2.5 Rout=1k
R1 Vcc N004 8e6
C1 N004 COM 1p
S1 N003 Vcc N004 2v5 ref
D2 N003 Vcc V65
C2 2v5 COM 1p Rpar=240
R2 2v5 N003 240
R3 Ref N003 280m
C3 COM Ref 10p
C4 Osc COM 5p
C5 Vfb COM 1p
R4 N009 Vfb 165k
C6 Err N009 1p Rpar=10G
A4 N009 2v5 COM COM COM COM Err COM OTA Vhigh=6 Vlow=0.7 Isrc=1m Isink=-6m Rclamp=1 g=5 Rout=25k Cout=5p eaclk=A2 powerup=!V(fault,Com)
C7 Ifb COM 5p
R5 N012 Ifb 75k
C8 N012 COM 1p
D3 Err N010 2R
D4 N010 COM 1R
C9 N010 COM 1p Rpar=1e6
A6 Ref COM COM COM COM fault COM COM SCHMITT Vt=4.8 Vh=.1 trise=200n
S2 Out Vcc T1 fault Ho
S3 Com Out fault T1 Lo
C10 Vcc COM 20p
C11 Out Com 20p
A5 N010 N012 COM COM COM COM N011 COM SCHMITT Vt=0.1 Vh=0.1 Trise=10n Tfall=10n tripdt=5n
A7 N011 COM N006 COM N013 COM T1 COM DFLOP Trise=50n Tfall=50n tripdt=5n
A8 N006 COM COM COM N011 N013 COM COM AND
A3 N005 COM COM COM COM COM N007 COM buf Trise=10n Tfall=10n tripdt=5n
A2 Osc COM COM COM COM N005 COM COM SCHMITT Vhigh=5V Vt={(LT3845A_osc_high+LT3845A_osc_low)*0.5} Vh={(LT3845A_osc_high-LT3845A_osc_low)*0.5} Trise=10n Tfall=10n Rout=100m
D6 Osc N005 OscILim
I2 N005 COM 10m
D7 N006 N005 DIdeal
D8 N008 Osc DIdeal
V2 N008 COM {LT3845A_osc_low-1m}
R12 N006 N007 1k
*.model D D
*.lib G:\SwCADIII\lib\cmp\standard.dio
.model 1R d(Vfwd=1 Ron=1)
.model 2R d(Vfwd=1.3 Ron=2e6)
.model 34V d(Ron=.5 Vfwd=.5 Vrev=34 Rrev=22 Roff=1MEG)
.model ref sw(Vh=-11m Ilimit=100m)
.model Ho sw(Vt= .48 Vh=-.25 Ron=2 Roff=100k Vser=0.1)
.model Lo sw(Vt=-.52 Vh=-.25 Ron=6 Roff=300k)
.model V65 d(Vfwd=0.65 Ron=1 Roff=1MEG)
* >> UC3845A <<\nLTspice A-Device Behavioral Model\nCopyright 2004 by analog@ieee.org
* NOTES:\nUC3842A: for A1 Vt=13  Vh=3.0 and bypass A3 (delete)\nUC3843A: for A1 Vt=8.2 Vh=0.3 and bypass A3 (delete)\nUC3844A: for A1 Vt=13  Vh=3.0; for A3 cycles=2\nUC3845A: for A1 Vt=8.2 Vh=0.3; for A3 cycles=2
.model OscILim D(Vfwd=0.1 ilimit={LT3845A_osc_discharge} Ron=10 Roff=1MEG)
.model DIdeal D(Vfwd=1m Ron=100 Roff=1MEG)
.PARAM LT3845A_osc_low=1.625 LT3845A_osc_high=3.0
.PARAM LT3845A_osc_discharge=8.2m
.backanno

.ENDS
